US08138377B2
C. Synthesis of 5-naphthalen-1-yl-bicyclo[3.1.0]hexan-2-ol
To a stirred solution of 3-naphthalen-1-yl-cyclopent-2-enol (1.00 g, 4.79 mmol) in dichloromethane (60 mL) was added diethylzinc (1.0 M in hexanes; 23.6 mL, 23.62 mmol, 4.9 eq.) and the reaction mixture was stirred for 10 min. The reaction mixture was cooled to 0° C. and treated with a solution of diiodomethane (1.93 mL, 24.04 mmol, 5 eq.) in dichloromethane (10 mL) in a dropwise fashion over 10 min. The reaction mixture was subsequently allowed to warm to ambient temperature and stirred for a further 2 h. TLC indicated that the reaction had gone to completion and was quenched with saturated aqueous ammonium chloride (50 mL). The reaction mixture was extracted with dichloromethane (3×100 mL) and the combined organics were dried over magnesium sulphate and concentrated in vacuo to afford the desired compound as a yellow oil. The crude material was purified by flash chromatography (SiO2, ethyl acetate:petroleum ether. 40-60; 20%:80%) to afford the desired compound as a yellow oil (1.00 g, 93%). 1H NMR (400 MHz, CDCl3) δ ppm 0.92-0.99 (1H, m, CH), 1.43-1.44 (2H, m, CH2), 1.82-1.86 (1H, m, CH), 1.93-2.07 (2H, m, CH2), 2.15-2.23 (1H, m, CH), 5.02-5.04 (1H, m, CH), 7.24-7.35 (4H, m, ArH), 7.75 (1H, d, J 8.0 ArH), 7.87 (1H, d, J 8.0 Hz, ArH) 8.15 (1H, d, J 8.4 Hz, ArH).

reactant | 3-naphthalen-1-yl-cyclopent-2-enol | 4.79 mmol, 1.00 g | C1(=CC=CC2=CC=CC=C12)C1=CC(CC1)O | C15H14O
reactant | diethylzinc | 23.62 mmol, 1.0 M, 23.6 mL, 4.9 eq. | C(C)[Zn]CC
reactant | diiodomethane | 24.04 mmol, 1.93 mL, 5 eq. | ICI | CH2I2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-naphthalen-1-yl-bicyclo[3.1.0]hexan-2-ol | C1(=CC=CC2=CC=CC=C12)C12CCC(C2C1)O | C16H16O
